US04959361
The title compound was obtained by reacting rac-6-(2-fluorophenyl)-4-hydroxy-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][4,1]benzodiazepine with 3,4-dihydro-1(2-propynyl)-2(1H)-quinolinone under the conditions used in Example 37. The product was isolated by chromatography over the 50-fold amount of silica gel using 5% (v/v) of ethanol in methylene chloride. The combined good fractions were evaporated and the residue was crystallized from methanol/ethyl acetate to give colorless crystals of rac-1-{3-[6-(2-fluorophenyl)-4-hydroxy-1-methyl-4H-[1,2,4]triazolo[4,3-a][4,1]benzodiazepin-8-yl]-2-propynyl}-3,4-dihydro-2(1H)-quinolinone with m.p. 253°-255° with decomposition. These crystals contained molar equivalents of water.

reactant | rac-6-(2-fluorophenyl)-4-hydroxy-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][4,1]benzodiazepine | FC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(C=C3)I)C(=NN2)C)O | C17H12FIN4O
reactant | 3,4-dihydro-1(2-propynyl)-2(1H)-quinolinone | C(C#C)N1C(CCC2=CC=CC=C12)=O | C12H11NO
reactant | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | rac-1-{3-[6-(2-fluorophenyl)-4-hydroxy-1-methyl-4H-[1,2,4]triazolo[4,3-a][4,1]benzodiazepin-8-yl]-2-propynyl}-3,4-dihydro-2(1H)-quinolinone | FC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(C=C3)C#CCN3C(CCC1=CC=CC=C31)=O)C(=NN2)C)O | C29H22FN5O2
